US04446142
3-amino-5-(2,6-dimethylphenylamino)-1,2,4-thiadiazole
A solution of 7.0 g (0.03 mole) 1-amidino-3-(2,6-dimethylphenyl)-thiourea in 150 ml methylene chloride is stirred with 4.2 g (0.03 mole) N-chlorosuccinimide (95%) for 1 hour at 20° C., then for another hour after the addition of 15 ml conc. NaOH. After dilution with water, the methylene chloride phase is separated by filtration and, by column-chromatography with silica gel (MeOH/CHCl3 : 10/90), 4.8 g 3-amino-5-(2,6-dimethylphenylamino)-1,2,4-thiadiazole having a melting point of 180° C. is obtained.

reactant | 1-amidino-3-(2,6-dimethylphenyl)-thiourea | 0.03 mole, 7.0 g | C(N)(=N)NC(=S)NC1=C(C=CC=C1C)C | C10H14N4S
reactant | N-chlorosuccinimide | 0.03 mole, 4.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | NaOH | 15 ml | [OH-].[Na+]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 3-amino-5-(2,6-dimethylphenylamino)-1,2,4-thiadiazole | NC1=NSC(=N1)NC1=C(C=CC=C1C)C | C10H12N4S
